US04831055
(1) N-[2-(4-Methoxycarbonylphenoxy)ethyl]phthalimide
Methyl 4-(2-Bromoethoxy)benzoate (126.52 g) and 99.5 g of potassium salt of phthalimide were dissolved in 600 ml of N,N-dimethylformamide and the solution was stirred at 78°-80° C. for 2 hours. The reaction solution was poured over ice water and extracted with chloroform. The chloroform layer was washed with water twice, dried with anhydrous magnesium sulphate, and concentrated in vacuo whereupon the residue was crystallised. Ether was added to the residue and filtered to give crystals in 149.23 g (yield: 94%). M.p. 129°-130.5° C.

reactant | Methyl 4-(2-Bromoethoxy)benzoate | 126.52 g | BrCCOC1=CC=C(C(=O)OC)C=C1 | C10H11BrO3
reactant | potassium | 99.5 g | [K] | K
reactant | phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
solvent | N,N-dimethylformamide | 600 ml | CN(C=O)C | C3H7NO
product | N-[2-(4-Methoxycarbonylphenoxy)ethyl]phthalimide | yield: 94% | COC(=O)C1=CC=C(OCCN2C(C=3C(C2=O)=CC=CC3)=O)C=C1 | C18H15NO5
